US06451852B2
α-[3-[[2-[4.5-dimethoxy-2-(3-oxo-1E-butenyl) phenyl]ethyl]methylamino]-propyl]-3,4-dimethoxy-α-(1-methylethyl)benzeneacetonitrile
To 4 g verapamil (8.8 mmole) in 100 ml of benzene was added to 2.2 g of palladium acetate. The mixture was stirred for four days at room temperature. A saturated solution of NaCl in 100 ml of water and 96 ml of acetone was added to the resulting mixture, which was stirred at room temperature for 15 minutes. Solvent was then removed under reduced pressure. Then, there was added to the mixture 100 ml of toluene, 25 ml of triethylamine and 10 mmol of methylvinylketone. The mixture was heated at 120° C. for 2 hours, and then allowed to cool to room temperature. The organic phase was filtered, washed with water, dried, filtered again and solvent was removed. After separation by chromatography, the title compound was obtained (3.2 g, 80%) [m.p. 119-121, from ether].

reactant | verapamil | 8.8 mmole, 4 g | CC(C)C(CCCN(C)CCC=1C=CC(=C(C1)OC)OC)(C#N)C=2C=CC(=C(C2)OC)OC | C27H38N2O4
reactant | NaCl | [Na+].[Cl-]
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | methylvinylketone | 10 mmol | CC(=O)C=C | C4H6O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
solvent | acetone | 96 ml | CC(=O)C | C3H6O
catalyst | palladium acetate | 2.2 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
product | α-[3-[[2-[4.5-dimethoxy-2-(3-oxo-1E-butenyl) phenyl]ethyl]methylamino]-propyl]-3,4-dimethoxy-α-(1-methylethyl)benzeneacetonitrile | COC1=CC(=C(C=C1OC)CCN(CCCC(C#N)(C1=CC(=C(C=C1)OC)OC)C(C)C)C)\C=C\C(C)=O | C31H42N2O5
